US07678818B2
b) Preparation of 1-(1-fluoro-cyclopropyl)-4-methyl-benzene
A solution of 1-(2,2-dichloro-1-fluoro-cyclopropyl)-4-methyl-benzene (1.18 g, 5.39 mmol) in THF (10 mL) was added at 0° C. to a suspension of lithium aluminum hydride (1.64 g, 43.1 mmol) in THF. The reaction mixture was stirred for 16 h at RT, then another portion of lithium aluminum hydride (613 mg, 16.1 mmol) was added, then after 3 h, 1 M aq. potassium sodium tartrate solution, methanol and ethyl acetate were added. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane) afforded the title compound (702 mg, 87%). Colourless liquid, MS (EI) 150.1 (M+).

reactant | 1-(2,2-dichloro-1-fluoro-cyclopropyl)-4-methyl-benzene | 5.39 mmol, 1.18 g | ClC1(C(C1)(F)C1=CC=C(C=C1)C)Cl | C10H9Cl2F
reactant | lithium aluminum hydride | 43.1 mmol, 1.64 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 16.1 mmol, 613 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium sodium tartrate | 1 M | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | methanol | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(1-fluoro-cyclopropyl)-4-methyl-benzene | 702 mg, 87% | FC1(CC1)C1=CC=C(C=C1)C | C10H11F
